US07598232B2
Synthesis of (E)-2,4,6-Trimethoxystyryl-4-Methoxy-3-Aminobenzylsulfone:
A solution of (E)-2,4,6-trimethoxystyryl-4-methoxy-3-nitrobenzylsulfone (1.3 mmol) in acetone-water (10:5) was heated to 50° C. After 30 min, sodium hydrosulfite (Na2S2O4) (26.3 mmol) was added slowly, and the mixture was heated at reflux (50° C., 1 h.), cooled to room temperature and water was added. The product was rinsed with NaHCO3, and then isolated by extraction with ethyl acetate. The organic layer was dried over anhydrous Na2SO4. The solvent was removed under reduced pressure and the crude product was recrystallized from 2-propanol, m.p. 148-150° C.

reactant | (E)-2,4,6-trimethoxystyryl-4-methoxy-3-nitrobenzylsulfone | 1.3 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)[N+](=O)[O-])S(=O)(=O)C(C2=CC(=C(C=C2)OC)[N+](=O)[O-])\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H40N2O14S
reactant | sodium hydrosulfite | 26.3 mmol | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | acetone water | CC(=O)C.O
product | (E)-2,4,6-Trimethoxystyryl-4-Methoxy-3-Aminobenzylsulfone | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
